US05281571
To a solution of 1.6 g of 3-(4-chloro-2-fluoro-5-methoxyphenyl)-1-(1-methylethyl)-5-(trifluoromethyl)-1H-pyrazole in 20 mL of dimethylformamide was added 2.0 g of N-chlorosuccinimide. The solution was heated to 80° C. for 2 hours, allowed to cool and poured into ice water. The aqueous mixture was extracted three times with methylene chloride, the combined organic extracts washed with water, dried with MgSO4 and concentrated to give a crude oil. The oil was purified by chromatography and distilled bulb-to-bulb to afford 1.54 g of 4-chloro-3-(4-chloro-2-fluoro-5-methoxyphenyl)-1-(1-methylethyl)-5-(trifluoromethyl)-1H-pyrazole as a yellow oil, nD 1.5192 (24° C.).

reactant | 3-(4-chloro-2-fluoro-5-methoxyphenyl)-1-(1-methylethyl)-5-(trifluoromethyl)-1H-pyrazole | 1.6 g | ClC1=CC(=C(C=C1OC)C1=NN(C(=C1)C(F)(F)F)C(C)C)F | C14H13ClF4N2O
reactant | N-chlorosuccinimide | 2.0 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-chloro-3-(4-chloro-2-fluoro-5-methoxyphenyl)-1-(1-methylethyl)-5-(trifluoromethyl)-1H-pyrazole | 1.54 g | ClC=1C(=NN(C1C(F)(F)F)C(C)C)C1=C(C=C(C(=C1)OC)Cl)F | C14H12Cl2F4N2O
